US07745438B2
1,1-bis-(2,2-dimethylpropoxy)-propan-2-one
Add p-toluenesulfonic acid hydrate (1.21 g, 10.58 mmol) to 1,1-dimethoxy-propan-2-one (25.00 g, 211.63 mmol) and neopentyl alcohol (46.64 g, 529.08 mmol) at room temperature. Heat in an open flask in an 80° C. oil bath for 8 hours. Allow to cool to room temperature and stir over the weekend. Purify (silica gel chromatography, eluting with 0:100 to 8:92 ethyl acetate:hexanes) to give the desired compound as a colorless oil (32.78 g 67.2%)

reactant | 1,1-dimethoxy-propan-2-one | 211.63 mmol, 25.00 g | COC(C(C)=O)OC | C5H10O3
reactant | neopentyl alcohol | 529.08 mmol, 46.64 g | C(C(C)(C)C)O | C5H12O
catalyst | p-toluenesulfonic acid hydrate | 10.58 mmol, 1.21 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 1,1-bis-(2,2-dimethylpropoxy)-propan-2-one | 32.78 g, 67.2% | CC(COC(C(C)=O)OCC(C)(C)C)(C)C | C13H26O3
